US07465815B2
3,3-Dimethyl-N-(4,6,7-trimethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-yl)butanamide
Using 4,6,7-trimethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine obtained in Reference Example 306, the title compound was synthesized in the same manner as in Example 1. Yield: 50%. Melting point: 146-147° C. (ethyl acetate).

reactant | 4,6,7-trimethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine | CC1=C(C(=C(C2=C1C(CO2)C2=CC=CC=C2)C)C)N | C17H19NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,3-Dimethyl-N-(4,6,7-trimethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-yl)butanamide | Yield: 50% | CC(CC(=O)NC=1C(=C(C2=C(C(CO2)C2=CC=CC=C2)C1C)C)C)(C)C | C23H29NO2
